US06498154B1
6(3-Fluorophenyl)-4,4-dimethyl-3,4-dihydroquinolin-2(1H)-one
Prepared by coupling 3-fluorophenylboronic acid with an equivalent amount of 6-bromo-4,4-dimethyl-3,4-dihydro-1H-quinolin-2-one using a catalytic amount of tetrakis(triphenylphosphine)palladium(0) with overnight refluxing in toluene containing an equivalent amount of potassium carbonate dissolved in water. Work up in the usual manner followed by recrystallization from ethanol gave a grey solid: mp 190-192° C. 1H-NMR (DMSO-d6) δ 10.27 (s, 1H), 7.57 (s, 1H), 7.50 (m, 4H), 7.15 (m, 1H), 6.95 (d, 1H J=8.2 Hz), 2.39 (s, 2H), 1.29 (s, 6H); MS (APCI (−)) m/z 268 [M−H]− Anal. Calc. For C17H16FNO 0.25 H2O: C, 74.57, H, 6.07, N, 5.12. Found: C, 74.86, H, 5.97, N 5.06.

reactant | 3-fluorophenylboronic acid | FC=1C=C(C=CC1)B(O)O | C6H6BFO2
reactant | 6-bromo-4,4-dimethyl-3,4-dihydro-1H-quinolin-2-one | BrC=1C=C2C(CC(NC2=CC1)=O)(C)C | C11H12BrNO
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | water | O | H2O
catalyst | tetrakis(triphenylphosphine)palladium(0) | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 6(3-Fluorophenyl)-4,4-dimethyl-3,4-dihydroquinolin-2(1H)-one | FC=1C=C(C=CC1)C=1C=C2C(CC(NC2=CC1)=O)(C)C | C17H16FNO
